US06492399B1
Alternatively, the aryl substituted olefinic amine compounds of the present invention can be prepared by coupling an N-protected aminoaldehyde, such as 4-(N-methyl-N-(tert-butoxycarbonyl)amino)pentanal with an aryllithium. The required aldehyde can be prepared according to methodology described by Otsuka et al., J. Am Chem. Soc. 112: 838-845 (1990), starting from commercially available 1,5-dimethyl-2-pyrrolidinone (Aldrich Chemical Company). Thus, heating 1,5-dimethyl-2-pyrrolidinone with 6N hydrochloric acid forms 4-(methylamino)pentanoic acid, which can be readily esterified to ethyl 4-(methylamino)pentanoate. The latter compound can be treated with one equivalent of di-tert-butyl dicarbonate to give ethyl 4-(N-methyl-N-(tert-butoxycarbonyl)amino)pentanoate which is then reduced with DIBAL-H to give 4-(N-methyl-N-(tert-butoxycarbonyl)amino)pentanal. Reaction of this aldehyde with an aryllithium generates an alcohol, which can subsequently be converted to the N-protected olefinic amine by conversion of the alcohol to the alkyl halide (with, for instance, carbon tetrachloride and triphenylphosphine) and subsequent dehydrohalogenation (with 1,8-diazabicyclo[5.4.0]undec-7-ene). Removal of the tert-butoxycarbonyl protecting group, with trifluoroacetic acid, affords the desired (E)-5-aryl-4-penten-2-amine. Thus, 3-lithio-5-isopropoxypyridine (from 3-bromo-5-isopropoxypyridine and n-butyllithium) can be condensed with 4-(N-methyl-N-(tert-butoxycarbonyl)amino)pentanal to give 1-(3-(5-isopropoxypyridin)yl)-4-(N-methyl-N-(tert-butoxycarbonyl)amino)-1-pentanol, which can subsequently be converted into (4E)-N-methyl-5-(3-(5-isopropoxypyridin)yl)-4-penten-2-amine.

reactant | 4-(N-methyl-N-(tert-butoxycarbonyl)amino)pentanal | CN(C(=O)OC(C)(C)C)C(CCC=O)C | C11H21NO3
reactant | 1,5-dimethyl-2-pyrrolidinone | CN1C(CCC1C)=O | C6H11NO
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | 4-(methylamino)pentanoic acid | CNC(CCC(=O)O)C | C6H13NO2
reactant | ethyl 4-(methylamino)pentanoate | CNC(CCC(=O)OCC)C | C8H17NO2
reactant | di-tert-butyl dicarbonate | one equivalent | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | ethyl 4-(N-methyl-N-(tert-butoxycarbonyl)amino)pentanoate | CN(C(=O)OC(C)(C)C)C(CCC(=O)OCC)C | C13H25NO4
